US07598289B2
1-Biphenyl-4-yl-hexan-1,6-diol (ABD-150)
1-Biphenyl-4-yl-hex-5-en-1-one (1 g) was dissolved in 0.5 M NaBH4 in diglyme (9 ml) and chilled in an ice bath. BF3.OEt2 (1 ml) in diglyme (4 ml) was added with vigorous stirring. Stirring was continued for 1 hour and water (1 ml) was added. 3M NaOH (2 ml) was added followed by 30% H2O2 (3 ml). Anhydrous K2CO3 (5 g) was added and the solvent decanted. The K2CO3 was washed with ethyl acetate and the combined organics dried (Na2SO4) and evaporated. Distillation under vacuum (oil bath temperature 175° C.) removed most of the remaining diglyme. The residue was purified by column chromatography (light petroleum:diethyl ether 2:1) to give a clear oil which solidified to give the title compound as a white powder (65%). δC (CDCl3, 62.9 MHz): 25.6, 25.7, 32.6, 39.0, 62.8, 74.2, 126.4, 127.1, 127.2, 127.3, 128.8, 140.4, 140.8 and 143.9. δH (CDCl3, 250 MHz): 1.39 (4H, m), 1.54 (2H, m), 1.81 (2H, m), 2.11 (1 or 2H, s), 3.37 (0 or 1H, s), 3.60 (2H, m), 4.69 (1H, t, J 6.4), 7.40 (5H, m) and 7.56 (4H, m). GCMS (EI+) (Found M, 270. C18H2O2 requires 270).

reactant | 1-Biphenyl-4-yl-hex-5-en-1-one | 1 g | C1(=CC=C(C=C1)C(CCCC=C)=O)C1=CC=CC=C1 | C18H18O
reactant | BF3.OEt2 | 1 ml | B(F)(F)F.CCOCC
reactant | NaOH | 3M, 2 ml | [OH-].[Na+]
reactant | H2O2 | 3 ml | OO | H2O2
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | NaBH4 | 0.5 M | [BH4-].[Na+]
solvent | diglyme | 9 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 4 ml | COCCOCCOC | C6H14O3
solvent | water | 1 ml | O | H2O
product | 1-Biphenyl-4-yl-hexan-1,6-diol | 65% | C1(=CC=C(C=C1)C(CCCCCO)O)C1=CC=CC=C1 | C18H22O2
